US06756378B2
To a stirred solution of ethyl 4-[N′-(2-trifluoromethylphenyl)ureido]phenylacetate (1.93 g, 5.27 mmol) in THF (10 ml) was added 1 N NaOH (10 ml) and the reaction mixture was heated under reflux for 5 hr. After cooled to room temperature, the mixture was poured into ice-1 N HCl. The resulting precipitate was collected under a reduced pressure and the crude solid was recrystallized from MeOH—CHCl3—IPE to give 4-[N′-(2-trifluoromethylphenyl)ureido]phenylacetic acid (910 mg, 51%) as a white crystalline powder. mp 224-225° C.; 1H-NMR (DMSO-d6) δ3.50 (s, 2 H), 7.18 (d, J=8.3 Hz, 2 H), 7.25-7.29 (m, 1 H), 7.40 (d, J=8.3 Hz, 2H), 7.62-7.69 (m, 2 H), 7.95-7.97 (m, 1 H), 8.06 (s, 1 H), 9.37 (s, 1 H), 12.27 (br s, 1H); Anal. Calcd. for C16H13F3N2O3: C, 56.81; H, 3.87; N, 8.28; F, 16.85. Found: C, 56.68; H, 3.87; N, 8.16; F, 16.89.

reactant | ethyl 4-[N′-(2-trifluoromethylphenyl)ureido]phenylacetate | 5.27 mmol, 1.93 g | FC(C1=C(C=CC=C1)NC(NC1=CC=C(C=C1)CC(=O)OCC)=O)(F)F | C18H17F3N2O3
reactant | NaOH | 1 N, 10 ml | [OH-].[Na+]
reactant | HCl | Cl | ClH
solvent | THF | 10 ml | C1CCOC1 | C4H8O
catalyst | ice-1 | C[C@@H]1OC[C@@H]2[C@@H](O1)[C@@H]([C@H]([C@@H](O2)OC3[C@H]4COC(=O)[C@@H]4[C@@H](C5=CC6=C(C=C35)OCO6)C7=CC(=C(C(=C7)OC)O)OC)O)O.C1CN(P(=O)(OC1)NCCCl)CCCl.[NH2-].[NH2-].Cl[Pt+2]Cl
product | 4-[N′-(2-trifluoromethylphenyl)ureido]phenylacetic acid | 910 mg, 51% | FC(C1=C(C=CC=C1)NC(NC1=CC=C(C=C1)CC(=O)O)=O)(F)F | C16H13F3N2O3
